US09351489B2
To a solution of 2-{(2-chlorophenyl)[(3-methylbutan-2-yl)amino]methylene}-3-oxohexanenitrile (0.300 g, 0.919 mmol, 1 eq.) in ethanol (6 ml) were added methoxylamine hydrochloride (0.314 g, 3.67 mmol, 4 eq.) followed by 2 drops of concentrated sulfuric acid. The reaction was microwaved (150° C., 22000 s, fixed hold, high absorption) and the solvent evaporated. The residual oil was triturated in ethyl acetate and washed with sat. aq. solution of NaCl. After drying over MgSO4 and concentration under vacuum, the residual oil was subjected to preparative HPLC to give 2-{(2-chlorophenyl)[(3-methylbutan-2-yl)amino]methylene}-3-(methoxyimino)hexanenitrile (0.163 g, 49% yield).

reactant | 2-{(2-chlorophenyl)[(3-methylbutan-2-yl)amino]methylene}-3-oxohexanenitrile | 0.919 mmol, 0.300 g, 1 eq. | ClC1=C(C=CC=C1)C(=C(C#N)C(CCC)=O)NC(C)C(C)C | C18H23ClN2O
reactant | methoxylamine hydrochloride | 3.67 mmol, 0.314 g, 4 eq. | Cl.O(C)N
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 2-{(2-chlorophenyl)[(3-methylbutan-2-yl)amino]methylene}-3-(methoxyimino)hexanenitrile | 0.163 g, 49% yield | ClC1=C(C=CC=C1)C(=C(C#N)C(CCC)=NOC)NC(C)C(C)C | C19H26ClN3O
